US06511978B1
14-1) Preparation of 5-(t-butyldimethylsilyloxymethyl)-1-(2-methoxyphenethyl)-1H-imidazole
248 mg(1.09 mmol) of 5-hydroxymethyl-1-(2-methoxyphenethyl)-1H-imidazole prepared according to the same procedure as Preparation 9-1) was dissolved in 3 ml of dimethylformamide and 170 mg(1.13 mmol) of t-butyldimethylsilylchloride was added thereto. After stirring for 1 hour, the solvent was removed under reduced pressure and the residue was subjected to column chromatography(eluent: methylene dichloride/methanol=95/5, v/v) to give 248 mg(0.72 mmol, Yield 66%) of the title compound.

reactant | 5-hydroxymethyl-1-(2-methoxyphenethyl)-1H-imidazole | 1.09 mmol, 248 mg | OCC1=CN=CN1CCC1=C(C=CC=C1)OC | C13H16N2O2
reactant | t-butyldimethylsilylchloride | 1.13 mmol, 170 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | methylene dichloride methanol | C(Cl)Cl.CO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-(t-butyldimethylsilyloxymethyl)-1-(2-methoxyphenethyl)-1H-imidazole | 0.72 mmol, 248 mg, Yield 66% | [Si](C)(C)(C(C)(C)C)OCC1=CN=CN1CCC1=C(C=CC=C1)OC | C19H30N2O2Si
